US07582657B2
(2E)-3-[4-(tert-Butyl)phenyl]-N-phenylprop-2-enamide.
To a 10 mL glass vial was added 4-tert-butyl-trans-cinnamic acid (200 mg, 0.98 mmol, EMKA-Chemie) followed by CH2Cl2 (5 mL), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (225 mg, 1.17 mmol, Bachem) and aniline (98 uL, 100 mg, 1.08 mmol, Aldrich). The reaction mixture was magnetically stirred at 25° C. for 24 h. EtOAc was added (60 mL) and the mixture washed successively with 1 N NaOH (2×20 mL), 1 N HCl (20 mL), water (20 mL) and satd NaCl (20 mL), dried over MgSO4, filtered and concentrated. Recrystallization from hexane and CH2Cl2 provided the title product as white crystals. MP 141° C. MS (ESI, pos. ion) m/z: 280 (M+1).

reactant | 4-tert-butyl-trans-cinnamic acid | 0.98 mmol, 200 mg | C(C)(C)(C)C1=CC=C(/C=C/C(=O)O)C=C1 | C13H16O2
reactant | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 1.17 mmol, 225 mg | Cl.CN(CCCN=C=NCC)C
reactant | aniline | 1.08 mmol, 98 uL, 100 mg | NC1=CC=CC=C1 | C6H7N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (2E)-3-[4-(tert-Butyl)phenyl]-N-phenylprop-2-enamide | C(C)(C)(C)C1=CC=C(C=C1)/C=C/C(=O)NC1=CC=CC=C1 | C19H21NO
